US05994368
To a suspension of 2,3-dimethyl-4-hydroxy-8-methoxyquinoline (3.0 g) in phosphoryl chloride was dropwise added N,N-dimethylaniline (3.58 g) under ice-cooling, and the mixture was stirred for 15 minutes at the same temperature, for 30 minutes at ambient temperature and then for 1 hour at 70° C. The solvent was removed, and saturated sodium bicarbonate solution and 10% solution of methanol in dichloromethan were added to the residue. The organic layer was dried over magnesium sulfate and concentrated. The residue wa purified by flash chromatography (Ethyl acetatein-hexane=1:2 v/v) to give 4-chloro-2,3-dimethyl-8-methoxyquinoline (3.02 g).

reactant | 2,3-dimethyl-4-hydroxy-8-methoxyquinoline | 3.0 g | CC1=NC2=C(C=CC=C2C(=C1C)O)OC | C12H13NO2
reactant | N,N-dimethylaniline | 3.58 g | CN(C1=CC=CC=C1)C | C8H11N
reactant | phosphoryl chloride | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 4-chloro-2,3-dimethyl-8-methoxyquinoline | 3.02 g | ClC1=C(C(=NC2=C(C=CC=C12)OC)C)C | C12H12ClNO
